* Thu Oct 29 20:49:59 2015, Generated by: 010328058, Server: None, Windows, INSTALLED_SOFTWARE_VERSION: 2015.07 Build 6, Engine: 2015.07rc1, GUI: 2015.07rc1
* Transfer Net sheet1 , Driver IO1
* Mon Jul 20 2015 2015.07rc1 , Copyright (c) Signal Integrity Software, Inc.
*
* Interface File C:\Myproject\PCI\interfaces\PCI_AD\PCI_AD.edk
* Log File     generate_spice.log
*
** #PARAM TRANSFER_NET sheet1
** #PARAM SIMULATION_DEPTH SL_Pad/Pad
** #PARAM DUTY_CYCLE,
** #PARAM UNCORRELATED_ETCH,
** #PARAM SIMULATOR IsSpice4
** #PARAM DRIVER IO1
** #PARAM AC_NOISE +/-0.00V
** #PARAM AC_NOISE_SOURCE tnet
** #PARAM AGGRESSORS 0
** #PARAM DRIVER_MODEL IBIS
** #PARAM RECEIVER_MODEL IBIS
** #PARAM SUB_CIRCUIT sheet1.tsc
** #PARAM CORNER SSSE
** #PARAM $T1:DELAY 3in
** #PARAM $T2:DELAY 0.75in
** #PARAM $T4:DELAY 1.5in
** #PARAM UI 15n
*
.probe/csdf
.option temp= 100.
Vv_stimulus v_stimulus 0 pwlb( 0.000n 0v
+ 15.000n 0v 15.0460n .46 15.0480n .48 15.0490n .49 15.0510n .51 15.0520n .52 15.0530n .54 15.100n 1v
+ 30.000n 1v 30.0460n .54 30.0480n .52 30.0490n .51 30.0510n .49 30.0520n .48 30.0530n .46 30.100n 0v
+ 45.000n 0v 45.0460n .46 45.0480n .48 45.0490n .49 45.0510n .51 45.0520n .52 45.0530n .54 45.100n 1v
+ 60.000n 1v 60.0460n .54 60.0480n .52 60.0490n .51 60.0510n .49 60.0520n .48 60.0530n .46 60.100n 0v
+ 75.000n 0v 75.0460n .46 75.0480n .48 75.0490n .49 75.0510n .51 75.0520n .52 75.0530n .54 75.100n 1v
+ 90.000n 1v 90.0460n .54 90.0480n .52 90.0490n .51 90.0510n .49 90.0520n .48 90.0530n .46 90.100n 0v
+ 105.000n 0v 105.0460n .46 105.0480n .48 105.0490n .49 105.0510n .51 105.0520n .52 105.0530n .54 105.100n 1v
+ 120.000n 1v 120.0460n .54 120.0480n .52 120.0490n .51 120.0510n .49 120.0520n .48 120.0530n .46 120.100n 0v
+ 135.000n 0v 135.0460n .46 135.0480n .48 135.0490n .49 135.0510n .51 135.0520n .52 135.0530n .54 135.100n 1v
+ 150.000n 1v 150.0460n .54 150.0480n .52 150.0490n .51 150.0510n .49 150.0520n .48 150.0530n .46 150.100n 0v
+ 165.000n 0v 165.0460n .46 165.0480n .48 165.0490n .49 165.0510n .51 165.0520n .52 165.0530n .54 165.100n 1v
+ 180.000n 1v 180.0460n .54 180.0480n .52 180.0490n .51 180.0510n .49 180.0520n .48 180.0530n .46 180.100n 0v
+ 195.000n 0v 195.0460n .46 195.0480n .48 195.0490n .49 195.0510n .51 195.0520n .52 195.0530n .54 195.100n 1v
+ 210.000n 1v 210.0460n .54 210.0480n .52 210.0490n .51 210.0510n .49 210.0520n .48 210.0530n .46 210.100n 0v
+ 225.000n 0v 225.0460n .46 225.0480n .48 225.0490n .49 225.0510n .51 225.0520n .52 225.0530n .54 225.100n 1v
+ 240.000n 1v 240.0460n .54 240.0480n .52 240.0490n .51 240.0510n .49 240.0520n .48 240.0530n .46 240.100n 0v 255.000n 0v )
** #PARAM PATTERN default_clock
.tran 20pS 259nS
Vone one 0 DC 1.
Vzero zero 0 DC 0.
Rone one 0 1.
Rzero zero 0 1.e-5
.options Minstep=20p
VTimeStep TimeStep 0 DC 1.
TTimeStep TimeStep 0 0 0 Zo=50. TD=40p
* options
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_options.inc
.options Itl1=500
.options Itl4=500
.options ICSTEP=40
.options autotol=2
.options ACCT
* options from: C:\Myproject\PCI\managed_data\project_defaults\isspice4_options.inc
*File C:\Myproject\PCI\managed_data\project_defaults\isspice4_options.inc
*
*
Vvssq_IO1 vssq_IO1 0 DC 0.
Vvddq_IO1 vddq_IO1 0 DC 3.135
Ven_IO1 en_IO1 0 1.
RIO1 IO1_pin IO1_pkg .77
LIO1 IO1_pkg IO1_pad 4.37n
CIO1 IO1_pin 0 2.41p
* Buffer IO1 slow driver, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.135 0. port3
*
RIO1_z IO1_z 0 1Meg
XIO1 vddq_IO1 vssq_IO1 IO1_pad v_stimulus en_IO1 IO1_z
+ vddq_IO1 vssq_IO1
+ stratix2_2s_pcix33_cio_SS
*
*
*
Vvssq_Controller vssq_Controller 0 DC 0.
Vvddq_Controller vddq_Controller 0 DC 3.135
RVen_Controller en_Controller 0 1.e-6
RController Controller_pin Controller_pkg .77
LController Controller_pkg Controller_pad 4.37n
CController Controller_pin 0 2.41p
* Buffer Controller slow receiver, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.135 0. port1
*
RController_z Controller_z 0 1Meg
XController vddq_Controller vssq_Controller Controller_pad v_stimulus en_Controller Controller_z
+ vddq_Controller vssq_Controller
+ stratix2_2s_pcix33_cio_SS
*
*
*
Vvssq_IO0 vssq_IO0 0 DC 0.
Vvddq_IO0 vddq_IO0 0 DC 3.135
RVen_IO0 en_IO0 0 1.e-6
RIO0 IO0_pin IO0_pkg .77
LIO0 IO0_pkg IO0_pad 4.37n
CIO0 IO0_pin 0 2.41p
* Buffer IO0 slow passive, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.135 0. port2
*
RIO0_z IO0_z 0 1Meg
XIO0 vddq_IO0 vssq_IO0 IO0_pad v_stimulus en_IO0 IO0_z
+ vddq_IO0 vssq_IO0
+ stratix2_2s_pcix33_cio_SS
*
*#save v(v_stimulus)
*#save v(IO1_pad)
*#save v(Controller_pad)
*#save v(IO0_pad)
*#save v(IO1_pin)
*#save v(Controller_pin)
*#save v(IO0_pin)
*#save v(Controller_z)
.SUBCKT stratix2_2s_pcix33_cio_SS PU_REF PD_REF PAD A EN Z PC_REF GC_REF
*
*
* C_comp
CCOMP PAD GC_REF +3.00000E-12 IC=0
*
RA A 0 1Meg
VINIT Vini 0    dc 200n
RETIR ETR  Vini 1G
CETR  ETR  0    1n
BETR  0    ETR  I= Time < 40p ? 0. : 1n
RETIF ETF  Vini 1G
CETF  ETF  0    1n
BETF  0    ETF  I= Time < 40p ? 0. : 1n
RETR ETR 0 R= V(A) > .5 ? 1G  : .02
RETF ETF 0 R= V(A) > .5 ? .02 : 1G
* Input Receiver
BZ Z 0 V= V(PAD) > 1.320 ? 1.0 : 0.0
RZZ Z  0 1MEG
*
* Ground Clamp Structure;
XGC GC_Current 0 PAD GC_REF GND_CLAMP
BGC PAD GC_REF I= V(GC_Current)
*
* Power Clamp Structure;
XPC PC_Current 0 PC_REF PAD POWER_CLAMP
BPC PAD PC_REF I= V(PC_Current)
*
* Pull Down Structure;
AKT_PD_R ETR KT_PD_R KT_PD_R_T
AKT_PD_F ETF KT_PD_F KT_PD_F_T
.model KT_PD_R_T pwl2(
+ xy_array = [ 0. 1.011 9.5p 1.012 85.5p 1.014 104.5p 1.016 123.5p 1.019 137.75p 1.02 147.25p 1.023 156.75p 1.024 171p 1.026 199.5p 1.023 209p 1.02
+ 218.5p 1.014 228p 1.007 237.5p .998 247p .987 256.5p .973 266p .955 275.5p .932 285p .905 294.5p .873 304p .835
+ 313.5p .791 323p .74 332.5p .685 342p .624 351.5p .558 361p .488 370.5p .407 380p .337 389.5p .28 399p .226
+ 408.5p .175 418p .132 427.5p .099 437p .078 446.5p .067 456p .062 470.25p .064 479.75p .066 489.25p .067 498.75p .065
+ 508.25p .068 532p .066 541.5p .068 551p .066 560.5p .068 570p .066 579.5p .069 589p .067 598.5p .068 608p .065
+ 622.25p .062 631.75p .057 641.25p .062 655.5p .064 665p .069 674.5p .074 684p .078 693.5p .079 703p .073 712.5p .083
+ 722p .077 736.25p .075 745.75p .071 751.519p .086 757.288p .085 768.827p .077 774.596p .073 780.365p .07 786.135p .067 791.904p .064
+ 797.673p .06 803.442p .055 809.212p .048 814.981p .045 826.519p .052 832.288p .054 843.827p .052 849.596p .05 855.365p .049 861.135p .047
+ 866.904p .046 872.673p .044 878.442p .042 884.212p .04 889.981p .039 901.519p .041 918.827p .04 930.365p .038 953.442p .036 970.75p .035
+ 1.034n .034 1.138n .033 1.577n .033 1.582n .033 1.588n 0. 101.588n 0. ]  )
.model KT_PD_F_T pwl2(
+ xy_array = [ 0. .044 4.75p 1.011 9.5p .034 85.5p .03 95p .029 104.5p .027 114p .025 123.5p .018 133p .013 142.5p .009 152p .005 161.5p -928.961u
+ 171p -.006 180.5p -.008 190p -.011 199.5p -.014 209p -.017 218.5p -.019 228p -.021 275.5p -.018 299.25p -.02 323p -.018
+ 332.5p -.015 342p -.013 356.25p -.012 365.75p -.01 375.25p -.008 384.75p -.006 394.25p -.003 403.75p 943.783u 413.25p .009 422.75p .017
+ 432.25p .029 441.75p .045 451.25p .072 460.75p .099 470.25p .142 479.75p .177 489.25p .226 498.75p .264 508.25p .318 517.75p .359
+ 527.25p .413 536.75p .457 546.25p .503 555.75p .539 565.25p .578 574.75p .611 584.25p .641 593.75p .664 603.25p .69 612.75p .707
+ 622.25p .735 631.75p .749 641.25p .766 650.75p .781 660.25p .798 669.75p .812 679.25p .825 688.75p .836 698.25p .848 707.75p .859
+ 717.25p .871 726.75p .881 736.25p .885 745.75p .877 751.519p .87 757.288p .859 763.058p .852 768.827p .87 774.596p .886 780.365p .899
+ 786.135p .912 791.904p .925 797.673p .939 803.442p .954 809.212p .969 814.981p .975 820.75p .972 826.519p .949 832.288p .939 838.058p .937
+ 843.827p .944 849.596p .95 855.365p .956 861.135p .963 866.904p .969 872.673p .976 878.442p .983 884.212p .99 889.981p .993 895.75p .992
+ 901.519p .983 907.288p .98 918.827p .982 924.596p .985 930.365p .987 936.135p .99 941.904p .993 947.673p .996 953.442p .999 959.212p 1.002
+ 964.981p 1.003 976.519p .999 982.288p .998 993.827p .999 999.596p 1. 1.005n 1.002 1.011n 1.003 1.017n 1.004 1.023n 1.005 1.028n 1.007
+ 1.034n 1.008 1.057n 1.007 1.075n 1.008 1.086n 1.009 1.098n 1.01 1.109n 1.011 1.178n 1.012 1.265n 1.013 1.577n 1.013 1.582n 1.013
+ 1.588n 1. 101.588n 1. ] )
*
BPD PAD PD_REF I= V(EN) < .5 ? 0 : ; Off
+ V(A) > .5 ? V(PD_Current)*V(KT_PD_R) : V(PD_Current)*V(KT_PD_F)
XPD PD_Current 0 PAD PD_REF PULL_DOWN
*
* Pullup Structure;
AKT_PU_R ETR KT_PU_R KT_PU_R_T
AKT_PU_F ETF KT_PU_F KT_PU_F_T
.model KT_PU_R_T pwl2(
+ xy_array = [ 0. 0. 4.75p 0. 9.5p -410.369u 90.25p 644.338u 123.5p .002 180.5p -528.485u 199.5p -.004 209p -.005 218.5p -.007 228p -.008 237.5p -.01 247p -.013
+ 256.5p -.016 266p -.019 275.5p -.022 285p -.026 294.5p -.029 304p -.032 313.5p -.034 323p -.036 332.5p -.037 346.75p -.039
+ 394.25p -.038 408.5p -.036 446.5p -.035 460.75p -.033 470.25p -.029 479.75p -.026 489.25p -.021 498.75p -.016 508.25p -.01 517.75p -.003
+ 527.25p .008 536.75p .019 546.25p .037 555.75p .053 565.25p .077 574.75p .101 584.25p .137 593.75p .168 603.25p .211 612.75p .243
+ 622.25p .285 631.75p .314 641.25p .368 650.75p .406 660.25p .447 669.75p .493 679.25p .539 688.75p .581 698.25p .619 707.75p .649
+ 717.25p .689 726.75p .721 736.25p .749 745.75p .763 751.519p .786 757.288p .789 763.058p .826 768.827p .801 774.596p .805 780.365p .831
+ 786.135p .861 791.904p .886 797.673p .9 803.442p .904 809.212p .897 814.981p .889 820.75p .883 826.519p .886 838.058p .887 843.827p .89
+ 849.596p .899 855.365p .912 861.135p .928 866.904p .945 872.673p .959 878.442p .97 884.212p .975 895.75p .97 901.519p .964 907.288p .953
+ 913.058p .94 918.827p .93 924.596p .928 930.365p .937 936.135p .959 941.904p .988 947.673p 1.015 953.442p .989 959.212p 1.011 964.981p 1.022
+ 970.75p .999 976.519p .984 982.288p .975 988.058p .973 993.827p .979 999.596p .984 1.005n .99 1.011n .996 1.017n 1.002 1.023n 1.009
+ 1.028n 1.015 1.034n 1.021 1.04n 1.023 1.046n 1.02 1.052n 1.008 1.057n 1.004 1.069n 1.006 1.075n 1.009 1.08n 1.012 1.086n 1.016
+ 1.092n 1.019 1.098n 1.022 1.103n 1.026 1.109n 1.029 1.115n 1.03 1.121n 1.029 1.127n 1.023 1.132n 1.021 1.144n 1.022 1.15n 1.024
+ 1.155n 1.025 1.161n 1.027 1.167n 1.029 1.173n 1.03 1.178n 1.032 1.184n 1.034 1.202n 1.031 1.207n 1.03 1.225n 1.031 1.236n 1.033
+ 1.248n 1.035 1.259n 1.036 1.277n 1.035 1.311n 1.036 1.328n 1.038 1.38n 1.039 1.403n 1.04 1.427n 1.039 1.577n 1.04 1.582n 1.04
+ 1.588n 1. 101.588n 1. ] )
.model KT_PU_F_T pwl2(
+ xy_array = [ 0. 1. 9.5p 1.047 28.5p 1.052 38p 1.045 52.25p 1.048 80.75p 1.043 90.25p 1.029 99.75p 1.02 109.25p 1.006 118.75p .987 128.25p .956
+ 137.75p .922 147.25p .88 156.75p .827 166.25p .765 175.75p .701 185.25p .636 194.75p .565 204.25p .485 213.75p .416 223.25p .352
+ 232.75p .299 242.25p .251 251.75p .209 261.25p .171 270.75p .14 280.25p .117 289.75p .096 299.25p .08 308.75p .072 318.25p .067
+ 327.75p .065 337.25p .071 346.75p .063 394.25p .06 418p .058 437p .055 446.5p .059 456p .054 465.5p .057 475p .048
+ 484.5p .044 494p .033 503.5p .028 517.75p .03 527.25p .04 536.75p .031 546.25p .047 555.75p .038 565.25p .042 574.75p .037
+ 584.25p .039 593.75p .032 612.75p .028 631.75p .024 646p .022 660.25p .019 669.75p .017 684p .015 698.25p .012 717.25p .01
+ 736.25p .008 780.365p .005 803.442p .003 878.442p .001 1.577n -191.595u 1.582n -191.638u 1.588n 0. 101.588n 0. ] )
*
BPU PAD PU_REF I= V(EN) < .5 ? 0 : ; Off
+ V(A) > .5 ? V(PU_Current)*V(KT_PU_R) : V(PU_Current)*V(KT_PU_F)
XPU PU_Current 0 PU_REF PAD PULL_UP
*
* Ground Clamp IV;
.SUBCKT GND_CLAMP PAD_OUT GC_OUT PAD_IN GC_IN
* Connections     Out+ Out In+ In
AGndClamp %vd(PAD_IN,GC_IN) %vd(PAD_OUT,GC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -2.55100E+00
+ -3.30000E+00 -2.55100E+00
+ -3.10500E+00 -2.35700E+00
+ -2.91000E+00 -2.16300E+00
+ -2.71500E+00 -1.96870E+00
+ -2.52000E+00 -1.77400E+00
+ -2.32500E+00 -1.58000E+00
+ -2.13000E+00 -1.38700E+00
+ -1.93500E+00 -1.19300E+00
+ -1.74000E+00 -1.00000E+00
+ -1.54500E+00 -8.09200E-01
+ -1.49000E+00 -7.55300E-01
+ -1.43500E+00 -7.01670E-01
+ -1.38000E+00 -6.48100E-01
+ -1.32500E+00 -5.94640E-01
+ -1.27000E+00 -5.41500E-01
+ -1.21500E+00 -4.88500E-01
+ -1.16000E+00 -4.35900E-01
+ -1.10500E+00 -3.83500E-01
+ -1.05000E+00 -3.31600E-01
+ -9.95000E-01 -2.80220E-01
+ -9.40000E-01 -2.29600E-01
+ -8.85000E-01 -1.80040E-01
+ -8.30000E-01 -1.32200E-01
+ -7.75000E-01 -8.72870E-02
+ -7.20000E-01 -4.71600E-02
+ -6.65000E-01 -1.38970E-02
+ -6.10000E-01 -2.70800E-03
+ -5.55000E-01 -5.61360E-04
+ -5.00000E-01 -1.25900E-04
+ -4.45000E-01 -3.03520E-05
+ -3.90000E-01 -7.59700E-06
+ -3.35000E-01 -1.90160E-06
+ -2.80000E-01 -4.65600E-07
+ -2.25000E-01 -1.11560E-07
+ -1.70000E-01 -2.71200E-08
+ -1.15000E-01 -7.69470E-09
+ -6.00000E-02 -3.31200E-09
+ -5.00000E-03 -2.19360E-09
+ +5.00000E-02 -1.87300E-09
+ +1.05000E-01 -1.75260E-09
+ +1.60000E-01 -1.63200E-09
+ +2.15000E-01 -1.51760E-09
+ +2.70000E-01 -1.40300E-09
+ +3.25000E-01 -1.29020E-09
+ +3.80000E-01 -1.17800E-09
+ +4.35000E-01 -1.06600E-09
+ +4.90000E-01 -9.54600E-10
+ +5.45000E-01 -8.43590E-10
+ +6.00000E-01 -7.33100E-10
+ +6.55000E-01 -6.23100E-10
+ +7.10000E-01 -5.13500E-10
+ +7.65000E-01 -4.04340E-10
+ +8.20000E-01 -2.95700E-10
+ +8.75000E-01 -1.87410E-10
+ +9.30000E-01 -7.94900E-11
+ +9.85000E-01 +2.78180E-11
+ +1.04000E+00 +1.34900E-10
+ +1.09500E+00 +2.41400E-10
+ +1.15000E+00 +3.47600E-10
+ +1.20500E+00 +4.53340E-10
+ +1.26000E+00 +5.58400E-10
+ +1.31500E+00 +6.63250E-10
+ +1.37000E+00 +7.67600E-10
+ +1.42500E+00 +8.71240E-10
+ +1.48000E+00 +9.74600E-10
+ +1.53500E+00 +1.07740E-09
+ +1.59000E+00 +1.18000E-09
+ +1.64500E+00 +1.28210E-09
+ +1.70000E+00 +1.38300E-09
+ +1.89500E+00 +1.71030E-09
+ +2.09000E+00 +2.57100E-09
+ +2.28500E+00 +2.95360E-09
+ +2.48000E+00 +3.36000E-09
+ +2.67500E+00 +3.72100E-09
+ +2.87000E+00 +4.06400E-09
+ +3.06500E+00 +1.85480E-08
+ +3.26000E+00 +2.78500E-06
+ +3.45500E+00 +3.35490E-04
+ +4.45500E+00 +3.35490E-04
+ ] )
.ENDS GND_CLAMP
*
* Power Clamp IV;
.SUBCKT POWER_CLAMP PAD_OUT PC_OUT PC_IN PAD_IN
* Connections       Out+ Out In+ In
APwrClamp %vd(PC_IN,PAD_IN) %vd(PAD_OUT,PC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +3.68700E-01
+ -3.30000E+00 +3.68700E-01
+ -3.10500E+00 +3.41700E-01
+ -2.91000E+00 +3.14700E-01
+ -2.71500E+00 +2.87810E-01
+ -2.52000E+00 +2.61000E-01
+ -2.32500E+00 +2.34210E-01
+ -2.13000E+00 +2.07400E-01
+ -1.93500E+00 +1.80670E-01
+ -1.74000E+00 +1.54000E-01
+ -1.54500E+00 +1.27290E-01
+ -1.49000E+00 +1.19800E-01
+ -1.43500E+00 +1.12270E-01
+ -1.38000E+00 +1.04700E-01
+ -1.32500E+00 +9.71540E-02
+ -1.27000E+00 +8.96100E-02
+ -1.21500E+00 +8.20640E-02
+ -1.16000E+00 +7.45100E-02
+ -1.10500E+00 +6.69600E-02
+ -1.05000E+00 +5.94000E-02
+ -9.95000E-01 +5.18520E-02
+ -9.40000E-01 +4.43700E-02
+ -8.85000E-01 +3.69740E-02
+ -8.30000E-01 +2.97100E-02
+ -7.75000E-01 +2.26660E-02
+ -7.20000E-01 +1.59600E-02
+ -6.65000E-01 +9.85250E-03
+ -6.10000E-01 +4.87300E-03
+ -5.55000E-01 +1.74520E-03
+ -5.00000E-01 +4.84000E-04
+ -4.45000E-01 +1.25990E-04
+ -3.90000E-01 +3.31300E-05
+ -3.35000E-01 +8.62060E-06
+ -2.80000E-01 +2.15700E-06
+ -2.25000E-01 +5.14770E-07
+ -1.70000E-01 +1.19200E-07
+ -1.15000E-01 +2.93370E-08
+ -6.00000E-02 +9.76000E-09
+ -5.00000E-03 +5.19710E-09
+ +9.95000E-01 +5.19710E-09
+ ] )
.ENDS POWER_CLAMP
*
* Pull Down IV;
.SUBCKT PULL_DOWN PD_Current    REF   PAD   PD_REF
* Connections     Out+ Out In+ In
APullDown %vd(PAD,PD_REF) %vd(PD_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -9.99999E-02
+ -3.30000E+00 -9.99999E-02
+ -3.10500E+00 -1.01000E-01
+ -2.91000E+00 -1.01000E-01
+ -2.71500E+00 -1.01310E-01
+ -2.52000E+00 -1.01000E-01
+ -2.32500E+00 -1.01000E-01
+ -2.13000E+00 -9.80000E-02
+ -1.93500E+00 -9.70000E-02
+ -1.74000E+00 -9.40000E-02
+ -1.54500E+00 -8.97000E-02
+ -1.49000E+00 -8.86000E-02
+ -1.43500E+00 -8.72250E-02
+ -1.38000E+00 -8.59000E-02
+ -1.32500E+00 -8.44500E-02
+ -1.27000E+00 -8.29000E-02
+ -1.21500E+00 -8.12810E-02
+ -1.16000E+00 -7.95000E-02
+ -1.10500E+00 -7.77000E-02
+ -1.05000E+00 -7.57000E-02
+ -9.95000E-01 -7.36310E-02
+ -9.40000E-01 -7.14000E-02
+ -8.85000E-01 -6.90000E-02
+ -8.30000E-01 -6.65000E-02
+ -7.75000E-01 -6.36570E-02
+ -7.20000E-01 -6.05400E-02
+ -6.65000E-01 -5.75060E-02
+ -6.10000E-01 -5.42420E-02
+ -5.55000E-01 -5.00420E-02
+ -5.00000E-01 -4.55340E-02
+ -4.45000E-01 -4.09000E-02
+ -3.90000E-01 -3.61520E-02
+ -3.35000E-01 -3.13300E-02
+ -2.80000E-01 -2.64200E-02
+ -2.25000E-01 -2.14150E-02
+ -1.70000E-01 -1.63300E-02
+ -1.15000E-01 -1.11460E-02
+ -6.00000E-02 -5.86700E-03
+ -5.00000E-03 -4.92940E-04
+ +5.00000E-02 +4.82300E-03
+ +1.05000E-01 +9.87470E-03
+ +1.60000E-01 +1.46600E-02
+ +2.15000E-01 +1.92020E-02
+ +2.70000E-01 +2.35000E-02
+ +3.25000E-01 +2.75590E-02
+ +3.80000E-01 +3.14100E-02
+ +4.35000E-01 +3.50510E-02
+ +4.90000E-01 +3.84800E-02
+ +5.45000E-01 +4.17070E-02
+ +6.00000E-01 +4.47500E-02
+ +6.55000E-01 +4.76060E-02
+ +7.10000E-01 +5.02900E-02
+ +7.65000E-01 +5.27990E-02
+ +8.20000E-01 +5.51400E-02
+ +8.75000E-01 +5.73250E-02
+ +9.30000E-01 +5.93600E-02
+ +9.85000E-01 +6.12470E-02
+ +1.04000E+00 +6.29800E-02
+ +1.09500E+00 +6.45810E-02
+ +1.15000E+00 +6.60300E-02
+ +1.20500E+00 +6.73400E-02
+ +1.26000E+00 +6.84900E-02
+ +1.31500E+00 +6.94800E-02
+ +1.37000E+00 +7.03200E-02
+ +1.42500E+00 +7.10320E-02
+ +1.48000E+00 +7.16300E-02
+ +1.53500E+00 +7.21550E-02
+ +1.59000E+00 +7.26200E-02
+ +1.64500E+00 +7.30240E-02
+ +1.70000E+00 +7.33900E-02
+ +1.89500E+00 +7.44360E-02
+ +2.09000E+00 +7.52300E-02
+ +2.28500E+00 +7.58850E-02
+ +2.48000E+00 +7.64400E-02
+ +2.67500E+00 +7.69350E-02
+ +2.87000E+00 +7.73900E-02
+ +3.06500E+00 +7.78110E-02
+ +3.26000E+00 +7.82370E-02
+ +3.45500E+00 +7.86720E-02
+ +3.65000E+00 +7.91600E-02
+ +3.84500E+00 +7.97790E-02
+ +4.04000E+00 +8.04500E-02
+ +4.23500E+00 +8.12750E-02
+ +4.43000E+00 +8.23000E-02
+ +4.62500E+00 +8.36500E-02
+ +4.82000E+00 +8.53000E-02
+ +5.01500E+00 +8.72500E-02
+ +5.21000E+00 +8.96000E-02
+ +5.40500E+00 +9.23250E-02
+ +5.60000E+00 +9.55000E-02
+ +5.79500E+00 +9.91000E-02
+ +5.99000E+00 +1.03300E-01
+ +6.18500E+00 +1.07980E-01
+ +6.38000E+00 +1.13200E-01
+ +6.57500E+00 +1.18950E-01
+ +6.60000E+00 +1.19700E-01
+ +7.60000E+00 +1.19700E-01
+ ] )
.ENDS PULL_DOWN
*
* Pull Up IV;
.SUBCKT PULL_UP PU_Current REF PU_REF PAD
* Connections   Out+ Out In+ In
APullUp %vd(PU_REF,PAD) %vd(PU_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +1.39300E-01
+ -3.30000E+00 +1.39300E-01
+ -3.10500E+00 +1.45910E-01
+ -2.91000E+00 +1.44000E-01
+ -2.71500E+00 +1.39150E-01
+ -2.52000E+00 +1.32600E-01
+ -2.32500E+00 +1.24990E-01
+ -2.13000E+00 +1.16600E-01
+ -1.93500E+00 +1.07550E-01
+ -1.74000E+00 +9.79000E-02
+ -1.54500E+00 +8.79560E-02
+ -1.49000E+00 +8.51000E-02
+ -1.43500E+00 +8.21810E-02
+ -1.38000E+00 +7.93000E-02
+ -1.32500E+00 +7.63960E-02
+ -1.27000E+00 +7.34900E-02
+ -1.21500E+00 +7.04860E-02
+ -1.16000E+00 +6.75900E-02
+ -1.10500E+00 +6.45900E-02
+ -1.05000E+00 +6.16000E-02
+ -9.95000E-01 +5.86220E-02
+ -9.40000E-01 +5.55400E-02
+ -8.85000E-01 +5.24950E-02
+ -8.30000E-01 +4.94400E-02
+ -7.75000E-01 +4.63700E-02
+ -7.20000E-01 +4.32800E-02
+ -6.65000E-01 +4.01880E-02
+ -6.10000E-01 +3.70670E-02
+ -5.55000E-01 +3.39140E-02
+ -5.00000E-01 +3.06760E-02
+ -4.45000E-01 +2.73680E-02
+ -3.90000E-01 +2.40170E-02
+ -3.35000E-01 +2.06480E-02
+ -2.80000E-01 +1.72580E-02
+ -2.25000E-01 +1.38690E-02
+ -1.70000E-01 +1.04700E-02
+ -1.15000E-01 +7.07550E-03
+ -6.00000E-02 +3.68500E-03
+ -5.00000E-03 +3.06160E-04
+ +5.00000E-02 -3.01100E-03
+ +1.05000E-01 -6.20760E-03
+ +1.60000E-01 -9.28400E-03
+ +2.15000E-01 -1.22460E-02
+ +2.70000E-01 -1.50800E-02
+ +3.25000E-01 -1.78100E-02
+ +3.80000E-01 -2.04200E-02
+ +4.35000E-01 -2.29260E-02
+ +4.90000E-01 -2.53100E-02
+ +5.45000E-01 -2.75970E-02
+ +6.00000E-01 -2.97700E-02
+ +6.55000E-01 -3.18350E-02
+ +7.10000E-01 -3.38000E-02
+ +7.65000E-01 -3.56670E-02
+ +8.20000E-01 -3.74200E-02
+ +8.75000E-01 -3.90750E-02
+ +9.30000E-01 -4.06400E-02
+ +9.85000E-01 -4.20930E-02
+ +1.04000E+00 -4.34600E-02
+ +1.09500E+00 -4.47310E-02
+ +1.15000E+00 -4.59000E-02
+ +1.20500E+00 -4.69870E-02
+ +1.26000E+00 -4.79700E-02
+ +1.31500E+00 -4.88710E-02
+ +1.37000E+00 -4.96800E-02
+ +1.42500E+00 -5.04100E-02
+ +1.48000E+00 -5.10500E-02
+ +1.53500E+00 -5.16200E-02
+ +1.59000E+00 -5.21300E-02
+ +1.64500E+00 -5.25800E-02
+ +1.70000E+00 -5.30000E-02
+ +1.89500E+00 -5.42250E-02
+ +2.09000E+00 -5.52000E-02
+ +2.28500E+00 -5.59900E-02
+ +2.48000E+00 -5.66600E-02
+ +2.67500E+00 -5.72450E-02
+ +2.87000E+00 -5.77600E-02
+ +3.06500E+00 -5.82170E-02
+ +3.26000E+00 -5.86290E-02
+ +3.45500E+00 -5.90140E-02
+ +3.65000E+00 -5.93600E-02
+ +3.84500E+00 -5.97000E-02
+ +4.04000E+00 -6.00000E-02
+ +4.23500E+00 -6.03500E-02
+ +4.43000E+00 -6.06000E-02
+ +4.62500E+00 -6.08560E-02
+ +4.82000E+00 -6.10000E-02
+ +5.01500E+00 -6.20000E-02
+ +5.21000E+00 -6.20000E-02
+ +5.40500E+00 -6.20000E-02
+ +5.60000E+00 -6.20000E-02
+ +5.79500E+00 -6.30000E-02
+ +5.99000E+00 -6.39999E-02
+ +6.18500E+00 -6.39999E-02
+ +6.38000E+00 -6.39999E-02
+ +6.57500E+00 -6.49371E-02
+ +6.60000E+00 -6.60000E-02
+ +7.60000E+00 -6.60000E-02
+ ] )
.ENDS PULL_UP
*
.ENDS stratix2_2s_pcix33_cio_SS
*File C:\Myproject\PCI\interfaces\PCI_AD\pre_subckts\sheet1.tsc
*
.SUBCKT sheet1_tsc port2 port3 port1
YT2_1 port2 0 node2 0 N=1 RLGCmodel=YT2_1 L=1
YT1_2 port1 0 node2 0 N=1 RLGCmodel=YT1_2 L=1
YT3_3 node2 0 node1 0 N=1 RLGCmodel=YT3_3 L=1
YT4_4 port3 0 node1 0 N=1 RLGCmodel=YT4_4 L=1
.ENDS sheet1_tsc
Xsheet1_tsc IO0_PIN IO1_PIN CONTROLLER_PIN sheet1_tsc
.model YT2_1 W MODELTYPE=RLGC N=1 Lo = 7.618n Co = 2.895p
.model YT1_2 W MODELTYPE=RLGC N=1 Lo = 26.73n Co = 13.2p
.model YT3_3 W MODELTYPE=RLGC N=1 Lo = 10.692n Co = 3.667p
.model YT4_4 W MODELTYPE=RLGC N=1 Lo = 15.236n Co = 5.79p
.END
